US04060528
A Grignard-complex is formed starting from 7.2 parts of magnesium and 93.9 parts of 2-(p-bromo-α-methylbenzyloxy)tetrahydropyran in 200 parts of dry tetrahydrofuran. To this stirring and refluxing complex is added dropwise a solution of 32.7 parts of 2-thiophenecarbonitrile in 70 parts of dry tetrahydrofuran and stirring at reflux is continued for 4 hours. The reaction mixture is stirred overnight at room temperature. After cooling, it is decomposed with 150 parts of a saturated ammonium chloride solution at a temperature of about 15° C. The whole is poured onto water and extracted with ether. The organic phase is washed four times with water, dried, filtered and upon acidification of the filtrate with 2-propanol, previously saturated with gaseous hydrogen chloride, an oil is separated. The ether is decanted and the oil is triturated twice in ether. The latter is decanted each time and the oily product is dissolved in water. Concentrated hydrochloric acid solution is added (150 parts) and the whole is stirred with activated charcoal. The latter is filtered off and the filtrate is boiled for 10 minutes and extracted with ether. The combined extracts are washed with water, dried, filtered and evaporated, yielding p-(1-hydroxyethyl)phenyl 2-thienyl ketone, as an oily residue.

reactant | magnesium | [Mg] | Mg
reactant | 2-(p-bromo-α-methylbenzyloxy)tetrahydropyran | BrC1=CC=C(C(OC2OCCCC2)C)C=C1 | C13H17BrO2
reactant | 2-thiophenecarbonitrile | S1C(=CC=C1)C#N | C5H3NS
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | p-(1-hydroxyethyl)phenyl 2-thienyl ketone | S1C(=CC=C1)C(=O)C1=CC=C(C=C1)C(C)O | C13H12O2S
